US07432266B2
1-(4-Bromophenyl)-5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazole (52.0 mg, 0.125 mmol), bis(triphenylphosphine)palladium(II) chloride (20 mg, 0.02 mmol), 0.1 mL of 2.00 M aqueous sodium carbonate, 2 mL of a mixture of DME, water and ethanol in a 7:3:2 ratio, and 2-methoxy-5-pyridineboronic acid (21.1 mg, 0.138 mmol) were combined in a 2.0-5.0 mL Smith Process vial. This was sealed and placed into a Personal Chemistry Emrys Optimizer, stirred for 30 seconds, and then heated to 140° C. for 300 seconds. Upon cooling, 10 mL of water and 10 mL of ethyl acetate were added and the organic layer was separated, dried over sodium sulfate, filtered and approximately 1 g of silica gel was added and the mixture was evaporated to dryness under reduced pressure. The residue was purified by column chromatography on silica gel eluting with 10% ethyl acetate in hexanes for 3 minutes, then with a linear gradient to 100% ethyl acetate over 18 minutes and then with 100% ethyl acetate for an additional 10 minutes to give 2-methoxy-5-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]pyridine (45 mg, 82%) as a yellow oil. LC/MS (EI) tR 4.3 (Method C), m/z 444.1 (M++1). 1H NMR (CDCl3 300 MHz) δ 1.9 (m, 2H); 3.7-3.9 (m, 4H); 3.9 (s, 3H); 4.0 (s, 3H); 4.8 (m, 1H) 6.5 (s, 1H); 6.6 (s, 1H); 6.9 (m, 2H); 7.0 (d, 2H); 7.4 (d, 2H); 7.5 (d, 2H); 7.8 (t, 2H); 8.3 (2, 1H).

reactant | 1-(4-Bromophenyl)-5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazole | 0.125 mmol, 52.0 mg | BrC1=CC=C(C=C1)N1N=CC=C1C1=CC(=C(C=C1)OC)O[C@H]1COCC1 | C20H19BrN2O3
reactant | sodium carbonate | 2.00 M, 0.1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | COCCOC | C4H10O2
reactant | 2-methoxy-5-pyridineboronic acid | 0.138 mmol, 21.1 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-methoxy-5-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]pyridine | 45 mg, 82% | COC1=NC=C(C=C1)C1=CC=C(C=C1)N1N=CC=C1C1=CC(=C(C=C1)OC)O[C@H]1COCC1 | C26H25N3O4
